US08183380B2
Step B: rac-2-(2-Dimethylamino-ethylamino)-N-[2-(7-methoxy-indan-1-ylamino)-quinolin-6-yl]-acetamide:
rac-2-Chloro-N-[2-(7-methoxy-indan-1-ylamino)-quinolin-6-yl]-acetamide (150 mg, 0.39 mmol) was suspended N,N-dimethylethylendiamine (693 mg, 7.9 mmol) and placed in an ultrasound bath for 4 min. The mixture was diluted with 5 mL saturated sodium bicarbonate solution and was extracted three times with ethyl acetate and combined organic layers were dried over sodium sulfate. Removal of the solvent in vacuum left a yellow residue which was purified by silica gel column chromatography with dichloromethane/methanol to give the title compound as a white foam (149 mg, 87%). MS (ISN) m/e=432.5 [(M−H)−].

reactant | rac-2-Chloro-N-[2-(7-methoxy-indan-1-ylamino)-quinolin-6-yl]-acetamide | 0.39 mmol, 150 mg | ClCC(=O)NC=1C=C2C=CC(=NC2=CC1)NC1CCC2=CC=CC(=C12)OC | C21H20ClN3O2
reactant | N,N-dimethylethylendiamine | 7.9 mmol, 693 mg | CN(CCN)C | C4H12N2
solvent | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
product | rac-2-(2-Dimethylamino-ethylamino)-N-[2-(7-methoxy-indan-1-ylamino)-quinolin-6-yl]-acetamide | 149 mg, 87% | CN(CCNCC(=O)NC=1C=C2C=CC(=NC2=CC1)NC1CCC2=CC=CC(=C12)OC)C | C25H31N5O2
